Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[H:7])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14].[H:8],1.61454403535
[H:1][O:2]/[C:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]#[C:4][H:5],-0.4427770674499999
[H:1][C:2][C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:3][C:5](=[C:4])[H:6]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-6.3034185992900005
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([O:7])([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4][H:5].[C:6](=[O:7])([H:8])[H:9],1.39321877011
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][H:4].[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-0.45440198915
[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-2.33223652566
[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[O:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[O:8])[C:9]([H:10])([H:11])[H:12],-4.23423095054
[H:1][O:2]/[C:3]=[C:4](\[O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9],2.2228068995
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13],-1.12904252445
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:8][H:9]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-4.44166912579
[C:1][C:2]#[C:3][C:4]([H:5])[O:6][O:7]>>[C:1].[C:2]#[C:3][C:4]([H:5])[O:6][O:7],6.1943189621000005
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]#[C:7][O:8][H:9]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]#[C:7][O:8][H:9],2.52538440692
[H:1][O:2][C:3]#[C:4][C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])(=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:4],2.4200083017
[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.56405442976
[C:4]([H:5])([H:6])([C:7])[H:12].[H:1][C:2]#[C:3][C:8]([C:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-9.1563864809
[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17],-1.2078530283600002
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12].[H:1][O:2][C:3],3.28559926008
[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([O:6][H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][H:4],1.25604181289
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],0.904358105381
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:9]([H:10])([H:11])[H:12].[H:8],2.23650920104
[C:8]=[C:9]([H:10])[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])[H:11],-6.7422471084
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@:8]([H:9])([O:10])[C:12]([H:13])([H:14])[H:15],4.686136869119999
[C:4][H:5].[H:1][C:3]([C:2])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-10.595079131799999
[H:1][C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])([H:5])=[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2],2.05729149924
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:8]([H:9])[H:10].[H:7],3.04344842975
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9].[O:10]=[C:11]([H:12])[C:13]([H:14])[H:15],0.20448875282900006
[C:1][O:2]/[C:3]([O:4][H:5])=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]=[O:2].[C:3](\[O:4][H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-1.20510112985
[H:1][O:2][C:3]#[C:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]#[C:4][C@@:5]([H:6])([O:7])[C:9]([H:10])([H:11])[H:12].[H:8],4.65011244456
[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:8]([H:9])[O:10][H:11].[H:7]>>[H:1][C:2][O:3][C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-3.20725380292
